US07858646B2
Synthesis of 1-(2-hydroxy-3-propyl-4-{3-[4-(2H-tetrazol-5-yl)-pyridin-2-ylsulfanyl]-benzyloxy}-phenyl)-ethanone
Employing the procedure essentially as described in Example 1 using 6-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-nicotinonitrile (430 mg, 1.03 mmol), sodium azide (668 mg, 10.3 mmol), and triethylamine hydrochloride (1.41 g, 10.3 mmol) purify by reverse phase chromatography eluting with methanol: acetic acid: water, the title compound is obtained as a white solid (77 mg, 16%): 1H NMR (CD3CN) δ 0.83 (t, 3H), 1.48 (sextuplet, 2H), 2.53 (s, 3H), 2.60 (t, 2H), 5.24 (s, 2H), 6.62 (d, 1H), 7.11 (d, 1H), 7.56 (m, 3H), 7.71 (m, 2H), 8.11 (dd, 1H), 8.96 (dd, 1H), 12.82 (bs, 1H); MS (esi negative) m/z 460 (m−1).

reactant | 6-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-nicotinonitrile | 1.03 mmol, 430 mg | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC2=NC=C(C#N)C=C2)C=C1)CCC)O | C24H22N2O3S
reactant | sodium azide | 10.3 mmol, 668 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 10.3 mmol, 1.41 g | Cl.C(C)N(CC)CC
product | 1-(2-hydroxy-3-propyl-4-{3-[4-(2H-tetrazol-5-yl)-pyridin-2-ylsulfanyl]-benzyloxy}-phenyl)-ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)SC1=NC=CC(=C1)C=1N=NNN1)C(C)=O | C24H23N5O3S
